US07855290B2
To a solution of 1,1-cyclopropanedicarboxylic acid (492 mg) in tetrahydrofuran (15 ml) was added dropwise 4-methylmorpholine (0.416 ml) while cooling in an ice water bath under a nitrogen atmosphere, followed by stirring for 15 min. To the reaction mixture, was then added thionyl chloride (0.276 ml), followed by stirring at the same temperature for 30 min. To the reaction mixture were added 4-(4-amino-2,5-difluorophenoxy)pyridine-2-carboxamide (500 mg) and 4-methylmorpholine (0.416 ml) in this order while cooling in an ice water bath under a nitrogen atmosphere. The reaction mixture was allowed to warm to room temperature and stirred overnight. The reaction mixture was partitioned after addition of a 1N aqueous solution of sodium hydroxide (15 ml) and tert-butyl methyl ether (30 ml). The separated aqueous layer was treated with 1N hydrochloric acid (15 ml) to precipitate a solid. The solid was collected by suction filtration and washed with water (10 ml, three times). Hot air drying at 60° C. provided 1-[4-(2-carbamoylpyridin-4-yl)oxy-2,5-difluorophenylaminocarbonyl]cyclopropanecarboxylic acid as a pale purple solid (674 mg, 95%).

reactant | 1,1-cyclopropanedicarboxylic acid | 492 mg | C1(CC1)(C(=O)O)C(=O)O | C5H6O4
reactant | 4-methylmorpholine | 0.416 ml | CN1CCOCC1 | C5H11NO
reactant | thionyl chloride | 0.276 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-(4-amino-2,5-difluorophenoxy)pyridine-2-carboxamide | 500 mg | NC1=CC(=C(OC2=CC(=NC=C2)C(=O)N)C=C1F)F | C12H9F2N3O2
reactant | 4-methylmorpholine | 0.416 ml | CN1CCOCC1 | C5H11NO
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 1-[4-(2-carbamoylpyridin-4-yl)oxy-2,5-difluorophenylaminocarbonyl]cyclopropanecarboxylic acid | 674 mg, 95% | C(N)(=O)C1=NC=CC(=C1)OC1=CC(=C(C=C1F)NC(=O)C1(CC1)C(=O)O)F | C17H13F2N3O5
